US06399660B1
A solution of 2-[3-chloro-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetic acid (200 mg) and methanesulfonic acid (38 μl) in benzyl alcohol (1.0 ml) was stirred for 2 days at room temperature. Purification of the reaction mixture by medium pressure liquid column chromatography on aminopropyl silica gel (eluent: ethyl acetate/ethanol=20/1) gave benzyl 2-[3-chloro-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]-phenoxy]acetate (136 mg).

reactant | 2-[3-chloro-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetic acid | 200 mg | ClC=1C=C(OCC(=O)O)C=CC1CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C | C19H22ClNO5
reactant | methanesulfonic acid | 38 μl | CS(=O)(=O)O | CH4O3S
solvent | benzyl alcohol | 1.0 ml | C(C1=CC=CC=C1)O | C7H8O
product | benzyl 2-[3-chloro-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]-phenoxy]acetate | 136 mg | ClC=1C=C(OCC(=O)OCC2=CC=CC=C2)C=CC1CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C | C26H28ClNO5
